US04814332
0.99 g of 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-(methylthio)imidazolium tetrafluoroborate is dissolved in 15 ml of absolute dimethylformamide. Dry ammonia is conducted into the reaction solution at room temperature while stirring until the cleavage of methyl mercaptan is complete. The solution is treated with diethyl ether. The precipitate obtained is washed twice with water and twice and cold methanol and re-precipitated from dimethylformamide/diethyl ether. There is obtained yellow 2-amino-1,3-bis[[p-(dimethylamino)benzylidene]amino]imidazolium tetrafluoroborate with a decomposition point >260°.

reactant | 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-(methylthio)imidazolium tetrafluoroborate | 0.99 g | F[B-](F)(F)F.CN(C1=CC=C(C=N[N+]2=C(N(C=C2)N=CC2=CC=C(C=C2)N(C)C)SC)C=C1)C
reactant | ammonia | N | H3N
reactant | methyl mercaptan | CS | CH4S
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-amino-1,3-bis[[p-(dimethylamino)benzylidene]amino]imidazolium tetrafluoroborate | F[B-](F)(F)F.NC1=[N+](C=CN1N=CC1=CC=C(C=C1)N(C)C)N=CC1=CC=C(C=C1)N(C)C | InChI=1S/C21H25N7.BF4/c1-25(2)19-9-5-17(6-10-19)15-23-27-13-14-28(21(27)22)24-16-18-7-11-20(12-8-18)26(3)4;2-1(3,4)5/h5-16,22H,1-4H3;/q;-1/p+1
